US09120837B2
To a solution of 4-(2-aminoethyl)benzenesulfonamide (2.00 g, 10 mmol), 3-bromoprop-1-yne (2.16 mL, 20 mmol, 80% in toluene) in acetonitrile (50 mL) was added DIPEA (3.0 mL). The reaction mixtures were stirred at room temperature for overnight and concentrated under reduced pressure to give a residue. The residue was purified by biotage over silica gel eluting with DCM to 10% MeOH in DCM to afford 4-(2-(di(prop-2-yn-1-yl)amino)ethyl)benzenesulfonamide as a yellow oil (2.40 g, 87%). MS (ESI), 277.1 (M+H)+.

reactant | 4-(2-aminoethyl)benzenesulfonamide | 10 mmol, 2.00 g | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
reactant | 3-bromoprop-1-yne | 20 mmol, 2.16 mL | BrCC#C | C3H3Br
reactant | DIPEA | 3.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(2-(di(prop-2-yn-1-yl)amino)ethyl)benzenesulfonamide | 2.40 g, 87% | C(C#C)N(CCC1=CC=C(C=C1)S(=O)(=O)N)CC#C | C14H16N2O2S
